US06713636B2
6-n-Octyloxy-11-methyl-14H-anthra(2,1,9 mna)thioxanthene-14-one
70 g (0.14M) of 3-[(2-amino-3-methylphenyl)thio]-2-octyloxy-7H-benzo[de]anthracene-7-one and 1200 ml of DMF were placed into a 2 liter three-necked flask, equipped with a mechanical stirrer and a thermometer. The flask was set onto an ice bath. While stirring, 235 mg of 36% of hydrochloric acid has been added at a temperature not exceeding 20° C. After the reaction mixture was cooled to 0° C., 13.1 g of a sodium nitrite solution in 70 ml of water was added portionwise and held for an hour. Then 0.5 g of copper sulfate (II) has been added at 10° C. and heated till 100° C. The mixture was held for 2 hours, cooled and filtered. The dark red colored precipitate was washed with ethanol and water. The yield=60 g (89. Tm=207-209° C.

reactant | 3-[(2-amino-3-methylphenyl)thio]-2-octyloxy-7H-benzo[de]anthracene-7-one | 0.14M, 70 g | NC1=C(C=CC=C1C)SC=1C(=CC2=C3C1C=CC=C3C(C=3C=CC=CC23)=O)OCCCCCCCC | C32H33NO2S
reactant | DMF | 1200 ml | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 235 mg | Cl | ClH
reactant | sodium nitrite | 13.1 g | N(=O)[O-].[Na+]
solvent | water | 70 ml | O | H2O
catalyst | copper sulfate | 0.5 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 6-n-Octyloxy-11-methyl-14H-anthra(2,1,9 mna)thioxanthene-14-one | C(CCCCCCC)OC=1C=C2C=3C4=C(C5=C(C=CC=C5SC14)C)C=CC3C(C3=CC=CC=C32)=O | C32H30O2S
